US06506901B2
(2S)-1-(3-Bromo-9H-carbazol-4-yloxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol
Prepared from 3-bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.083 g, 0.26 mmol) and 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine (0.10 g, 0.48 mmol) according to the procedure used for Example 2 without heating to give 0.085 g of the title compound as a white solid.

reactant | 3-bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.26 mmol, 0.083 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1OC[C@H]1OC1 | C15H12BrNO2
reactant | 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine | 0.48 mmol, 0.10 g | NCC1CCN(CC1)CCC(F)(F)F | C9H17F3N2
product | (2S)-1-(3-Bromo-9H-carbazol-4-yloxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol | 0.085 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1OC[C@H](CNCC1CCN(CC1)CCC(F)(F)F)O | C24H29BrF3N3O2
